US07547691B2
(R)-2-{2-[2-(2,4-Dimethylpiperazin-1-yl)-ethylamino]- 5-methylpyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride, the title compound is synthesized from (R)-2-{5-methyl-2-[2-(2-methylpiperazin-1-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and isolated as a yellow solid. ES+(m/z) 465 [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.ClC=1C(=NC(=NC1)NCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N
reactant | (R)-2-{5-methyl-2-[2-(2-methylpiperazin-1-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCN2[C@@H](CNCC2)C | C24H30N6OS
product | (R)-2-{2-[2-(2,4-Dimethylpiperazin-1-yl)-ethylamino]- 5-methylpyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCN2[C@@H](CN(CC2)C)C | InChI=1S/C25H32N6OS.3ClH/c1-16-14-27-25(26-9-10-31-12-11-30(3)15-17(31)2)29-23(16)22-13-20-19(5-4-6-21(20)33-22)24(32)28-18-7-8-18;;;/h4-6,13-14,17-18H,7-12,15H2,1-3H3,(H,28,32)(H,26,27,29);3*1H/t17-;;;/m1.../s1
